US04433152
A mixture of 8 g of bis-(p-cyclohexylphenyl)sulfite prepared from p-cyclohexylphenol and thionyl chloride and 4 g of 1-amidino-4-piperidinepropionic acid hydrochloride was dissolved in a solution of 20 ml of dry dimethylformamide and 8 ml of dry pyridine, and the resulting solution was stirred at room temperature for 2.5 hours. The solvent was removed, and the residue was treated with ethyl acetate to give crystals. The crystals were recrystallized from isopropanol-ether to obtain 5.6 g (yield: 83.6%) of p-cyclohexylphenyl 1-amidino-4-piperidine propionate hydrochloride as colorless crystals having a melting point of 115° to 116° C.

reactant | bis-(p-cyclohexylphenyl)sulfite | 8 g | C1(CCCCC1)C1=CC=C(C=C1)OS(=O)OC1=CC=C(C=C1)C1CCCCC1 | C24H30O3S
reactant | p-cyclohexylphenol | C1(CCCCC1)C1=CC=C(C=C1)O | C12H16O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 4 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | p-cyclohexylphenyl 1-amidino-4-piperidine propionate hydrochloride | 5.6 g, yield: 83.6% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC=C(C=C1)C1CCCCC1 | InChI=1S/C21H31N3O2.ClH/c22-21(23)24-14-12-16(13-15-24)6-11-20(25)26-19-9-7-18(8-10-19)17-4-2-1-3-5-17;/h7-10,16-17H,1-6,11-15H2,(H3,22,23);1H
